US08278473B2
3.50 g (11.6 mmol) of methyl 2-(methylthio)-3-(p-toluenesulfonyloxy)-2-propenoate was dissolved in 20 ml of chloroform and cooled to 0° C. To the solution was added 1.28 g (11.6 mmol) of thiophenol and 2 ml (14.3 mmol) of triethylamine and stirred at room temperature for 1 hour. To the reaction mixture was added tert-butyl methyl ether and washed sequentially with an aqueous 1N NaOH solution and a saturated NaCl solution. The organic layer was dried and then concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1) to obtain 1.64 g of methyl 2-(methylthio)-3-(phenylthio)-2-propenoate.

reactant | methyl 2-(methylthio)-3-(p-toluenesulfonyloxy)-2-propenoate | 11.6 mmol, 3.50 g | CSC(C(=O)OC)=COS(=O)(=O)C1=CC=C(C=C1)C | C12H14O5S2
reactant | thiophenol | 11.6 mmol, 1.28 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 14.3 mmol, 2 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-(methylthio)-3-(phenylthio)-2-propenoate | 1.64 g | CSC(C(=O)OC)=CSC1=CC=CC=C1 | C11H12O2S2
